US07906511B2
2-(2-Aminopyrimidin-4-ylmethylthio)-N-(3,5-dimethylphenyl)pyridine-3-carboxamide (Compound No. 1-1)
O-(7-Azabenzotriazole-1-yl)-N,N,N′,N′-tetrauroniumhexafluorophosphate (110 mg, 0.29 mmol) was added to a solution of 2-(2-aminopyrimidin-4-ylmethylthio)nicotinic acid (60 mg, 0.24 mmol, Reference Compound No. 12-1), 3,5-dimethylaniline (33 μL, 0.27 mmol) and N,N-diisopropylethylamine (0.93 μL, 0.53 mmol) in anhydrous N,N-dimethylformamide (1.0 mL) at room temperature, and the mixture was stirred for 18 hours. Ethyl acetate (30 mL) was added thereto, and then the whole was washed with saturated aqueous sodium hydrogencarbonate solution (50 mL) and brine (50 mL), then the organic layer was dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, the precipitated solid was filtered off, and washed with 50% diethylether-ethyl acetate solution. The solid was then dried at 60° C. under reduced pressure to give 35 mg of the target compound as a light brown solid (Yield: 41%).

reactant | 2-(2-aminopyrimidin-4-ylmethylthio)nicotinic acid | NC1=NC=CC(=N1)CSC1=C(C(=O)O)C=CC=N1 | C11H10N4O2S
reactant | 3,5-dimethylaniline | 0.27 mmol, 33 μL | CC=1C=C(N)C=C(C1)C | C8H11N
reactant | N,N-diisopropylethylamine | 0.53 mmol, 0.93 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | Ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 1.0 mL | CN(C=O)C | C3H7NO
product | 2-(2-Aminopyrimidin-4-ylmethylthio)-N-(3,5-dimethylphenyl)pyridine-3-carboxamide | 35 mg, Yield: 41% | NC1=NC=CC(=N1)CSC1=NC=CC=C1C(=O)NC1=CC(=CC(=C1)C)C | C19H19N5OS
